US04046895
By the method of Example 2, 1,2,3,4,7,8,9,10-octahydro-6-methyl-phenanthridine is reacted with n-butyl-lithium solution and the resulting anion is reacted with trimethylsilyl isothiocyanate to give 1,2,3,4,7,8,9,10-octahydro-6-methylphenanthridine-4-thiocarboxamide.

reactant | 1,2,3,4,7,8,9,10-octahydro-6-methyl-phenanthridine | CC=1N=C2CCCCC2=C2CCCCC12 | C14H19N
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | trimethylsilyl isothiocyanate | C[Si](C)(C)N=C=S | C4H9NSSi
product | 1,2,3,4,7,8,9,10-octahydro-6-methylphenanthridine-4-thiocarboxamide | CC=1N=C2C(CCCC2=C2CCCCC12)C(N)=S | C15H20N2S
